US05128355
To a solution of 0.26 g of 1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-2-(1-trans-butenyl)-4-chloroimidazole-5-carboxaldehyde in 10 mL of methanol at 0° C. was added 0.24 g of sodium borohydride portionwise over 0.5 hours. The mixture was stirred for an additional 0.5 hours at 0° C. and then poured into a solution at 10% sodium hydroxide in water. The resulting mixture was extracted with ethyl acetate, and the combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Column chromatography (elution:ethyl acetate/benzene) provided 0.23 g of 1-[2'-carbomethoxybiphenyl-4-yl)methyl-2-(1-transbutenyl)-4-chloro-5-hydroxymethylimidazole. NMR (200 MHz, CDCl3) δ 7.84 (d, 1H); 7.53 (t, 1H); 7.40 (t, 1H); 7.29 (m, 3H); 7.08 (d, 2H); 6.86 (d of t, 1H); 6.17 (d, 1H); 5.30 (s, 2H); 4.54 (br s, 2H); 3.63 (s, 3H); 2.23 (quint., 2H); 1.04 (t, 3H).

reactant | 1-[(2'-carbomethoxybiphenyl-4-yl)methyl]-2-(1-trans-butenyl)-4-chloroimidazole-5-carboxaldehyde | 0.26 g | C(=O)(OC)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C=O)Cl)\C=C\CC | C23H21ClN2O3
reactant | sodium borohydride | 0.24 g | [BH4-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | O | H2O
product | 1-[2'-carbomethoxybiphenyl-4-yl)methyl-2-(1-transbutenyl)-4-chloro-5-hydroxymethylimidazole | 0.23 g | C(=O)(OC)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)Cl)\C=C\CC | C23H23ClN2O3
